US07495007B2
Preparation of racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2,2-dimethyl-3-hydroxy propoxy)-phenyl]-6-chloro-4′-(2,5-dichlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 231, racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(2,5-dichlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (120 mg, 0.177 mmol) was reacted with LiAlH4 (34 mg, 0.885 mmol) in THF to give title compound as a white solid (21 mg).

reactant | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2-methoxycarbonyl-2-methyl-propoxy)-phenyl]-6-chloro-4′-(2,5-dichlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.177 mmol, 120 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=C(C=CC(=C1)Cl)Cl)=O)OCC(C)(C)C(=O)OC | C30H26BrCl3N2O5
reactant | LiAlH4 | 0.885 mmol, 34 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(2,2-dimethyl-3-hydroxy propoxy)-phenyl]-6-chloro-4′-(2,5-dichlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 21 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=C(C=CC(=C1)Cl)Cl)=O)OCC(CO)(C)C | C29H26BrCl3N2O4
